US05250678
A solution of 1,2-diiodoethane (42 mg, 0.15 mmol) in dry THF (1 mL) was added dropwise to a stirred mixture of samarium metal (46.5 mg, 0.31 mmol) in dry THF (1 mL) and stirred for 1.5 hours. The reaction mixture was then cooled to -78° C. (dry ice/acetone) and treated with a solution of 17-ethyl- 1,14-dihydroxy-12-[2'-(4"-(naphth-2-yl)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (100 mg, 0.109 mmol) in 1:1 THF/CH3OH. The mixture was maintained at -78° C. for 15 minutes then allowed to warm to room temperature. The reaction was quenched with cold saturated aqueous K2CO3 and quickly extracted with CH2Cl2. The extracts were combined, dried with Na2SO4, filtered and concentrated in vacuo. Purified by preparative TLC on silica gel (eluted with 7% CH3OH in CH2Cl2) to give 22 mg of 17-ethyl-1,2,14-trihydroxy-12-[2'-(4"-(naphth-2-yl)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo-[22.3.1.04,9 ]octacos-18-ene-3,10,16-trione (1H NMR and mass spectral analysis are consistent with the desired structure).

reactant | 1,2-diiodoethane | 0.15 mmol, 42 mg | ICCI | C2H4I2
reactant | samarium | 0.31 mmol, 46.5 mg | [Sm] | Sm
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | 17-ethyl- 1,14-dihydroxy-12-[2'-(4"-(naphth-2-yl)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 0.109 mmol, 100 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)C2=CC1=CC=CC=C1C=C2)OC)C)C)O)=O | C53H75NO11
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF CH3OH | C1CCOC1.CO
product | 17-ethyl-1,2,14-trihydroxy-12-[2'-(4"-(naphth-2-yl)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo-[22.3.1.04,9 ]octacos-18-ene-3,10,16-trione | 22 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)O)=O)=O)C(=CC2CC(C(CC2)C2=CC1=CC=CC=C1C=C2)OC)C)C)O)=O | C53H77NO11
